US07294636B2
4-[3-(4-Methanesulfonyl-benzyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride
A premixed solution of acetyl chloride (0.97 mL, 11.86 mmol) was added dropwise to methanol (10 mL), stirred for 10 minutes and tert-butyl 4-{3-[4-(methylsulfonyl)benzyl]-1,2,4-oxadiazol-5-yl}piperidine-1-carboxylate (2.50 g, 5.93 mmol) was added and the mixture heated to reflux for 2 hours. The solvents were evaporated and the residue triturated with diethyl ether, filtered and dried to give the title compound as a fine white powder (2.05 g, 97%); NMR 1.97 (2H, m), 2.17(2H, dd), 3.02(2H, m), 3.31 (2H, m), 3.41 (1H, m), 4.25 (2H, s), 7.59 (2H, d), 7.89 (2H, d), 9.27(1H, br s), 9.35 (1H, br s); MS: 322 (MH+).

reactant | acetyl chloride | 11.86 mmol, 0.97 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 4-{3-[4-(methylsulfonyl)benzyl]-1,2,4-oxadiazol-5-yl}piperidine-1-carboxylate | 5.93 mmol, 2.50 g | CS(=O)(=O)C1=CC=C(CC2=NOC(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H27N3O5S
solvent | methanol | 10 mL | CO | CH4O
product | 4-[3-(4-Methanesulfonyl-benzyl)-[1,2,4]oxadiazol-5-yl]-piperidine hydrochloride | 2.05 g, 97% | Cl.CS(=O)(=O)C1=CC=C(CC2=NOC(=N2)C2CCNCC2)C=C1 | InChI=1S/C15H19N3O3S.ClH/c1-22(19,20)13-4-2-11(3-5-13)10-14-17-15(21-18-14)12-6-8-16-9-7-12;/h2-5,12,16H,6-10H2,1H3;1H
